US05281606
A solution of bromine (4.5 g, 0.029 mol) in chloroform (30 ml) is added dropwise to a solution of 6,7-dimethoxy-2-acetylnaphthalene (6.7 g, 0.029 mol) in a mixture chloroform (70 ml)/methanol (15 ml). Once the reaction mixture discoloures, it is concentrated to dryness and the residue is treated with a mixture ethyl ether/isopropyl ether. The thus obtained solid is triturated with methanol yielding 6,7-dimethoxy-2-(2-bromoacetyl)naphthalene M.p. 120°-122° C.

reactant | bromine | 0.029 mol, 4.5 g | BrBr | Br2
reactant | 6,7-dimethoxy-2-acetylnaphthalene | 0.029 mol, 6.7 g | COC=1C=C2C=CC(=CC2=CC1OC)C(C)=O | C14H14O3
reactant | methanol | 15 ml | CO | CH4O
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 70 ml | C(Cl)(Cl)Cl | CHCl3
product | 6,7-dimethoxy-2-(2-bromoacetyl)naphthalene | COC=1C=C2C=CC(=CC2=CC1OC)C(CBr)=O | C14H13BrO3
